US08541448B2
Intermediate 38.2: diethyl (3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)methylphosphonate
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-nitrophenyl 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylcarbamate (200 mg, 0.42 mmol, 1.00 equiv) in N,N-dimethylformamide (6 mL), a solution of diethyl aminomethylphosphonate (144 mg, 0.63 mmol, 1.50 equiv) in N,N-dimethylformamide (1 mL) and triethylamine (64 mg). The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 40 mg (17%) of diethyl (3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)methylphosphonate as a solid.

reactant | 4-nitrophenyl 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylcarbamate | 0.42 mmol, 200 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H19Cl2N3O4
reactant | diethyl aminomethylphosphonate | 0.63 mmol, 144 mg, 1.50 equiv | NCP(OCC)(OCC)=O | C5H14NO3P
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 64 mg | C(C)N(CC)CC | C6H15N
product | diethyl (3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)methylphosphonate | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(NCP(OCC)(OCC)=O)=O | C22H28Cl2N3O4P
